US07696223B2
a) 5-(4-Fluoro-phenyl)-1-(4-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of 5-(4-fluoro-phenyl)-2-methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester from 2-[2-(4-fluoro-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid ethyl ester and 4-methoxyaniline. The title compound, ESI MS (m/z): 354 (M+H+).

reactant | 5-(4-fluoro-phenyl)-2-methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1)C | C20H18FNO2
reactant | 2-[2-(4-fluoro-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)CC(=O)C1=CC=C(C=C1)F)=O | C14H15FO4
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 5-(4-Fluoro-phenyl)-1-(4-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)C | C21H20FNO3
